Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
O[C:1]([CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][c:13]1[cH:14][cH:15][cH:16][o:17]1)=[O:18].[NH2:19][NH:20][C:21](=[O:22])[N:23]1[CH2:24][c:25]2[cH:26][cH:27][cH:28][cH:29][c:30]2[O:31][c:32]2[cH:33][cH:34][c:35]([Cl:36])[cH:37][c:38]21>>[C:1]([CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][c:13]1[cH:14][cH:15][cH:16][o:17]1)(=[O:18])[NH:19][NH:20][C:21](=[O:22])[N:23]1[CH2:24][c:25]2[cH:26][cH:27][cH:28][cH:29][c:30]2[O:31][c:32]2[cH:33][cH:34][c:35]([Cl:36])[cH:37][c:38]21,[NH2:19][NH:20][C:21](=[O:22])[N:23]1[CH2:24][c:25]2[cH:26][cH:27][cH:28][cH:29][c:30]2[O:31][c:32]2[cH:33][cH:34][c:35]([Cl:36])[cH:37][c:38]21.[OH:101][C:1]([CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][c:13]1[cH:14][cH:15][cH:16][o:17]1)=[O:18].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([CH2:2][CH2:3][N:4]([C:5]([O:6][C:7]([CH3:8])([CH3:9])[CH3:10])=[O:11])[CH2:12][c:13]1[cH:14][cH:15][cH:16][o:17]1)(=[O:18])[NH:19][NH:20][C:21](=[O:22])[N:23]1[CH2:24][c:25]2[cH:26][cH:27][cH:28][cH:29][c:30]2[O:31][c:32]2[cH:33][cH:34][c:35]([Cl:36])[cH:37][c:38]21,DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (19, 1), ([1, 18], 18), (303, 19.1), ([19.1, 19], 19), (18, [18, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
Cl[C@H:1]([C:2]([O:3][CH3:4])=[O:5])[CH3:6].[O:7]=[C:8]([NH:9][CH2:10][C:11]12[CH2:12][CH:13]3[CH2:14][CH:15]([CH2:16][CH:17]([CH2:18]3)[CH2:19]1)[CH2:20]2)[c:21]1[cH:22][c:23](-[c:24]2[cH:25][cH:26][cH:27][cH:28][c:29]2[OH:30])[cH:31][cH:32][c:33]1[Cl:34]>>[C@H:1]([C:2]([O:3][CH3:4])=[O:5])([CH3:6])[O:30][c:29]1[c:24](-[c:23]2[cH:22][c:21]([C:8](=[O:7])[NH:9][CH2:10][C:11]34[CH2:12][CH:13]5[CH2:14][CH:15]([CH2:16][CH:17]([CH2:18]5)[CH2:19]3)[CH2:20]4)[c:33]([Cl:34])[cH:32][cH:31]2)[cH:25][cH:26][cH:27][cH:28]1,[O:7]=[C:8]([NH:9][CH2:10][C:11]12[CH2:12][CH:13]3[CH2:14][CH:15]([CH2:16][CH:17]([CH2:18]3)[CH2:19]1)[CH2:20]2)[c:21]1[cH:22][c:23](-[c:24]2[cH:25][cH:26][cH:27][cH:28][c:29]2[OH:30])[cH:31][cH:32][c:33]1[Cl:34].[Cl:101][C@H:1]([C:2]([O:3][CH3:4])=[O:5])[CH3:6]>>[C@H:1]([C:2]([O:3][CH3:4])=[O:5])([CH3:6])[O:30][c:29]1[c:24](-[c:23]2[cH:22][c:21]([C:8](=[O:7])[NH:9][CH2:10][C:11]34[CH2:12][CH:13]5[CH2:14][CH:15]([CH2:16][CH:17]([CH2:18]5)[CH2:19]3)[CH2:20]4)[c:33]([Cl:34])[cH:32][cH:31]2)[cH:25][cH:26][cH:27][cH:28]1,SN1,"[([1, 101], 101), (30, 1)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
[CH3:1][c:2]1[cH:3][n:4][c:5]([C:6](=[O:7])[CH2:8][Cl:9])[s:10]1>>[CH3:1][c:2]1[cH:3][n:4][c:5]([CH:6]([OH:7])[CH2:8][Cl:9])[s:10]1,[CH3:1][c:2]1[cH:3][n:4][c:5]([C:6](=[O:7])[CH2:8][Cl:9])[s:10]1.[BH4-:301].[CH3][OH1:302]>>[CH3:1][c:2]1[cH:3][n:4][c:5]([CH:6]([OH:7])[CH2:8][Cl:9])[s:10]1,carbonyl_reduction,"[([301, 301.1], 6), ([6, 7], 7), (7, 302.1), ([302.1, 302], 302)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
O[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]2[cH:7][c:8]3[cH:9][cH:10][cH:11][c:12]([CH3:13])[c:14]3[n:15][c:16]12)=[O:17].[CH3:18][N:19]([CH2:20][CH2:21][CH2:22][NH2:23])[CH2:24][CH2:25][CH2:26][NH:27][c:28]1[n:29][n+:30]([O-:31])[c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]2[n+:38]1[O-:39]>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]2[cH:7][c:8]3[cH:9][cH:10][cH:11][c:12]([CH3:13])[c:14]3[n:15][c:16]12)(=[O:17])[NH:23][CH2:22][CH2:21][CH2:20][N:19]([CH3:18])[CH2:24][CH2:25][CH2:26][NH:27][c:28]1[n:29][n+:30]([O-:31])[c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]2[n+:38]1[O-:39],[CH3:18][N:19]([CH2:20][CH2:21][CH2:22][NH2:23])[CH2:24][CH2:25][CH2:26][NH:27][c:28]1[n:29][n+:30]([OH:31])[c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]2[n+:38]1[OH:39].[OH:101][C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]2[cH:7][c:8]3[cH:9][cH:10][cH:11][c:12]([CH3:13])[c:14]3[n:15][c:16]12)=[O:17].[N:301](=[C:302]=[N:303]C1CCCCC1)C2CCCCC2>>[C:1]([c:2]1[cH:3][cH:4][cH:5][c:6]2[cH:7][c:8]3[cH:9][cH:10][cH:11][c:12]([CH3:13])[c:14]3[n:15][c:16]12)(=[O:17])[NH:23][CH2:22][CH2:21][CH2:20][N:19]([CH3:18])[CH2:24][CH2:25][CH2:26][NH:27][c:28]1[n:29][n+:30]([OH:31])[c:32]2[cH:33][cH:34][cH:35][cH:36][c:37]2[n+:38]1[OH:39],DCC_condensation,"[(301, 101.1), ([101.1, 101], 101), (101, 302), ([302, 301], 301), (23, 1), ([1, 17], 17), (303, 23.1), ([23.1, 23], 23), (17, [17, 1]), ([1, 101], 101), (101, [101, 302]), ([302, 303], 303)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
I[CH3:1].[cH:2]1[cH:3][c:4]2[n:5]([n:6]1)[CH2:7][CH2:8][CH2:9][NH:10]2>>[CH3:1][N:10]1[c:4]2[cH:3][cH:2][n:6][n:5]2[CH2:7][CH2:8][CH2:9]1,[cH:2]1[cH:3][c:4]2[n:5]([n:6]1)[CH2:7][CH2:8][CH2:9][NH:10]2.[I:101][CH3:1]>>[CH3:1][N:10]1[c:4]2[cH:3][cH:2][n:6][n:5]2[CH2:7][CH2:8][CH2:9]1,SN2,"[(10, 1), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
